US07732477B2
5-Amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-7-methoxy-1-benzofuran-2-carboxamide dihydrochloride
Initially, N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-7-methoxy-5-nitro-1-benzofuran-2-carboxamide hydrochloride (120 mg, 0.31 mmol) is converted into the free base. To this end, the compound is taken up in ethyl acetate, and 30% strength aqueous sodium hydroxide solution is added. The aqueous phase is extracted repeatedly with ethyl acetate. The extract is dried over magnesium sulfate and the solvent is removed under reduced pressure. The free base is dissolved in 3 ml of methanol. 120 mg (1.84 mmol) of ammonium formate are added, and the mixture is heated under reflux for 4 h. The reaction mixture is filtered through Celite, and the filter cake is washed with ethanol and ethyl acetate. The crude product is subjected to fine purification on silica gel 60 (mobile phase: dichloromethane→dichloromethane/methanol 10:1→dichloromethane/methanol/ammonia 80:20:2). An excess of 4N HCl in dioxane is added to the free base. The solvent is then removed under reduced pressure. 25 mg (17% of theory) of the title compound are isolated.

reactant | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-7-methoxy-5-nitro-1-benzofuran-2-carboxamide hydrochloride | 0.31 mmol, 120 mg | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=C(C=C1OC)[N+](=O)[O-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ammonium formate | 1.84 mmol, 120 mg | C(=O)[O-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-7-methoxy-1-benzofuran-2-carboxamide dihydrochloride | Cl.Cl.NC=1C=C(C2=C(C=C(O2)C(=O)N[C@H]2CN3CCC2CC3)C1)OC | InChI=1S/C17H21N3O3.2ClH/c1-22-14-8-12(18)6-11-7-15(23-16(11)14)17(21)19-13-9-20-4-2-10(13)3-5-20;;/h6-8,10,13H,2-5,9,18H2,1H3,(H,19,21);2*1H/t13-;;/m0../s1
